US09260418B2
5-({3-[(3R,4S)-3-Hydroxytetrahydro-2H-pyran-4-yl]4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)pyridine-2-carboxylic acid
To a solution of methyl 5-({3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]-4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)pyridine-2-carboxylate (0.150 g, 0.337 mmol) in 2 mL of water and 2 mL of THF was added lithium hydroxide (0.016 g, 0.67 mmol). The mixture was heated to 50° C. for 2 h, cooled to rt, and quenched with saturated aqueous potassium phosphate to pH 5. The aqueous solution was extracted 3× with ethyl acetate and the combined organic fractions were dried over sodium sulfate, filtered, and concentrated in vacuo to provide the title compound that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 432.1560 for [M+H]+ [Calc'd for C24H22N3O5, [M+H]+=432.1554]: 1H NMR (400 MHz, CDCl3) δ 896-8.94 (m, 1H), 8.70 (s, 1H), 8.67 (s, 1H), 8.13-8.10 (m, 1H), 7.98 (s, 1H), 8.89 (d, J=8.2 Hz, 1H), 7.78-7.67 (m, 3H), 5.26 (d, J=5.3 Hz, 1H), 4.63 (s, 2H), 4.14-4.03 (m, 1H), 3.94-3.88 (m, 2H), 3.41 (t, J=11.0 Hz, 1H), 3.27 (br s, 1H), 3.12-3.08 (m, 2H), 2.28-2.19 (m, 1H), 1.87-1.83 (m, 1H).

reactant | methyl 5-({3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]-4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)pyridine-2-carboxylate | 0.337 mmol, 0.150 g | O[C@H]1COCC[C@@H]1N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=CC(=NC1)C(=O)OC)C=CC=C3 | C25H23N3O5
reactant | lithium hydroxide | 0.67 mmol, 0.016 g | [OH-].[Li+]
solvent | water | 2 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-({3-[(3R,4S)-3-Hydroxytetrahydro-2H-pyran-4-yl]4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)pyridine-2-carboxylic acid | O[C@H]1COCC[C@@H]1N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=CC(=NC1)C(=O)O)C=CC=C3 | C24H21N3O5
